US06211234B1
A mixture of methyl (Z)-2-benzoylamino-3-(2,4-dibenzyloxyphenyl)acrylate (1.6 g) and aqueous potassium hydroxide in methanol (35 mL, 15%) is stirred and heated at 60° C. for 6 hours. The reaction mixture is diluted with water (20 mL), acidified to pH 1 by addition of concentrated hydrochloric acid and the resulting solid filtered. Recrystallisation fro ethyl acetate gives (Z)-2-benzoylamino-3-(2,4-dibenzyloxyphenyl)acrylic acid (0.72 g) as a white solid, m.p. 212-213° C. [Elemental analysis:- C,75.2; H,5.28; N,2.83%. Calculated :- C,75.1; H,5.26; N,2.92%].

reactant | methyl (Z)-2-benzoylamino-3-(2,4-dibenzyloxyphenyl)acrylate | 1.6 g | C(C1=CC=CC=C1)(=O)N\C(\C(=O)OC)=C/C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H27NO5
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (Z)-2-benzoylamino-3-(2,4-dibenzyloxyphenyl)acrylic acid | 0.72 g | C(C1=CC=CC=C1)(=O)N\C(\C(=O)O)=C/C1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H25NO5
